US05252732
Tri(1-allylindol-5-yl)bismuthine
To a stirred solution of 1-allyl-5-bromoindole (730 mg., 3.09 mmol., 1 eq.) in diethyl ether (15 mL) at -78° C. under N2 was added t-butyllithium (1.8 mL., 3.09 mmol., 1 eq., 1.7M solution in pentane). The mixture was stirred at -78° C. under N2 for 1 h. To this mixture was added a solution of bismuth trichloride (292 mg., 0.93 mmol., 0.3 eq.) in dry THF (3 mL.) dropwise via syringe. The ice bath was packed with dry ice and the flask covered. The mixture was allowed to warm slowly to room temperature overnight. The reaction mixture was then diluted with toluene and washed with brine. The layers were separated and the aqueous layer extracted 3× with toluene. The organic extracts were combined, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was dissolved in ether and filtered through a 0.4 micron pTFE membrane. The product started to crystallize. Cooled solution in freezer. Collected crystals giving 200 mg. of tris-1-allylindol-5-yl)bismuthine.

reactant | 1-allyl-5-bromoindole | 3.09 mmol, 730 mg, 1 eq. | C(C=C)N1C=CC2=CC(=CC=C12)Br | C11H10BrN
reactant | t-butyllithium | 3.09 mmol, 1.7M, 1.8 mL, 1 eq. | C(C)(C)(C)[Li]
reactant | bismuth trichloride | 0.93 mmol, 292 mg, 0.3 eq. | [Bi](Cl)(Cl)Cl
reactant | dry ice | C(=O)=O | CO2
reactant | bismuthine | [BiH3]
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Tri(1-allylindol-5-yl)bismuthine | C(C=C)N1C=CC2=CC(=CC=C12)[Bi](C=1C=C2C=CN(C2=CC1)CC=C)C=1C=C2C=CN(C2=CC1)CC=C | InChI=1S/3C11H10N.Bi/c3*1-2-8-12-9-7-10-5-3-4-6-11(10)12;/h3*2,4-7,9H,1,8H2;
